US07521216B2
(−)-2-naphthylglycolic acid 1H NMR (DMSO-d6, 500 MHz) δ 12.6 (bm, 1H), 7.88-7.93 (m, 4H), 7.48-7.56 (m, 3H), 5.20 (s, 1H).
(−)-3-pyridylglycolic acid This Reaction was performed in 100 mM anmonium formate buffer at pH 8. To isolate the product, the reaction mixture was filtered through a 10,000 MWCO membrane to remove enzyme and then concentrated in vacuo. 1H NMR (DMSO-d6, 500 MHz) δ 8.56 (s, 1H), 8.36 (d, J=4.57 Hz, 1H), 8.25 (s, 1H), 7.71 (m, 1H), 7.25 (dd, J=4.98, 4.80 Hz 1H), 5.45 (s, 1H). 13C NMR DMSO-d6, 125 MHz) δ 165.911, 147.862, 147.251, 139.118, 133.381, 122.746, 71.508. MS calc'd for [C7H7NO3] 153.04, found 154.0 ((MALDI TOF). ee=92% [HPLC], 84% yield, [α]20598=−65.2 (c=0.5, H2O).

reactant | (−)-3-pyridylglycolic acid | N1=CC(=CC=C1)C(C(=O)O)O | C7H7NO3
reactant | formate | C(=O)[O-]
product | (−)-2-naphthylglycolic acid | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)O | C12H10O3
